US06211234B1
A mixture of sodium 4-hydroxy-4-(2-methyl-phenyl)butanoate, thought to be the (R)-enantiomer, (3 g) and sodium hydride (1.5 g; 60% w/v dispersion in mineral oil; 37.5 mmol) in tetrahydrofuran (50 mL) is stirred at ambient temperature for 1 hour under an atmosphere of argon and is then warmed to 55° C. It is then treated with 2-fluoro-4-(3-pyridyl-methoxy)benzonitrile (3 g), in one portion, and stirring is continued at 55° C. for 15 hours. The reaction mixture is then cooled, concentrated in vacuo, and diluted with water (100 mL). The pH of the mixture is adjusted to 5 by treatment with concentrated hydrochloric acid and is then extracted with ethyl acetate (4×100 mL). The combined extracts are dried over magnesium sulphate and concentrated in vacuo, to give an oily residue. This residue is recrystallized from isopropyl ether to give 4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid, thought to be the (R)-enantiomer, (1.5 g) in the form of a white solid, m.p. 130-134° C. Chiral HPLC assay showed a 98% enantiomeric excess. [Elemental analysis:- C,71.12; H,5.49;N,6.62%; Calculated:- C,71.64; H,5.47;N, 6.97%].

reactant | sodium 4-hydroxy-4-(2-methyl-phenyl)butanoate | OC(CCC(=O)[O-])C1=C(C=CC=C1)C.[Na+]
reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | 2-fluoro-4-(3-pyridyl-methoxy)benzonitrile | 3 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NC=CC1 | C13H9FN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | C(#N)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C24H22N2O4
